US07157454B2
A) 3-Amino-3-(3-methylphenyl)propionic acid
11.8 ml of 3-methylbenzaldehyde are added to a mixture of 10.4 g of malonic acid and 15.4 g of ammonium acetate in 150 ml of 2-methoxyethanol, and the mixture is heated overnight at 80° C. After cooling to RT, the precipitate formed is filtered off under suction, washed with ether and dried. 6.8 g of the expected product are obtained.

reactant | 3-methylbenzaldehyde | 11.8 ml | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | malonic acid | 10.4 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 15.4 g | C(C)(=O)[O-].[NH4+]
solvent | 2-methoxyethanol | 150 ml | COCCO | C3H8O2
product | 3-Amino-3-(3-methylphenyl)propionic acid | 6.8 g | NC(CC(=O)O)C1=CC(=CC=C1)C | C10H13NO2
